US07777031B2
[6-(3,4-Dichloro-phenoxy)-pyridin-2-yl]-(4-isopropyl-piperazin-1-yl)-methanone
To a solution of (6-bromo-pyridin-2-yl)-(4-isopropyl-piperazin-1-yl)-methanone (76.7 mg, 0.25 mmol) in DMF (2.5 mL) was added 3,4 dichlorophenol (40.07 mg, 0.25 mmol) and K2CO3 (101.93 mg, 0.74 mmol). After 18 h at 120° C., the mixture was cooled to rt, diluted with water, and extracted with DCM. Purification by FCC followed by reverse phase HPLC (basic conditions) provided the desired product (10.0 mg, 3.5%). MS (ESI): mass calcd. for C19H21Cl2N3O2, 393.10; m/z found, 394.3 [M+H]+. 1H NMR (CDCl3): 7.82 (dd, J=8.2, 7.4 Hz, 1H), 7.52-7.44 (m, 2H), 7.26 (d, J=2.7 Hz, 1H), 7.06-6.98 (m, 2H), 3.75-3.67 (m, 2H), 3.50-3.44 (m, 2H), 2.70-2.61 (m, 1H), 2.55-2.48 (m, 2H), 2.23-2.15 (m, 2H), 1.01 (d, J=6.6 Hz, 6H).

reactant | (6-bromo-pyridin-2-yl)-(4-isopropyl-piperazin-1-yl)-methanone | 0.25 mmol, 76.7 mg | BrC1=CC=CC(=N1)C(=O)N1CCN(CC1)C(C)C | C13H18BrN3O
reactant | 3,4 dichlorophenol | 0.25 mmol, 40.07 mg | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | K2CO3 | 0.74 mmol, 101.93 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [6-(3,4-Dichloro-phenoxy)-pyridin-2-yl]-(4-isopropyl-piperazin-1-yl)-methanone | 10.0 mg, 3.5% | ClC=1C=C(OC2=CC=CC(=N2)C(=O)N2CCN(CC2)C(C)C)C=CC1Cl | C19H21Cl2N3O2
